US08138173B2
To a solution of sodium tert-butoxide dissolved in ethanol (71 mL) was added diethyl oxalate (16.1 g, 110 mmol) followed by the material obtained in Part A (18.8 g, 100 mmol). The reaction was stirred 30 minutes at ambient temperature before cooling to 0° C. and adding acetic acid (100 mL) and propylhydrazine oxalate (16.4 g, 100 mmol). The reaction was allowed to warm to ambient temperature and stirred for 19 hours. The solvent was removed under reduced pressure. The resulting brown oil was purified by automated flash chromatography (AnaLogix, eluting with a gradient of 50-75% ethyl acetate in hexanes) to provide 9.6 g of ethyl 5-(2-hydroxy-2-methylpropyl)-1-propyl-1H-pyrazole-3-carboxylate as a yellow oil.

reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | diethyl oxalate | 110 mmol, 16.1 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | propylhydrazine oxalate | 100 mmol, 16.4 g | C(C(=O)O)(=O)O.C(CC)NN
solvent | ethanol | 71 mL | C(C)O | C2H6O
product | ethyl 5-(2-hydroxy-2-methylpropyl)-1-propyl-1H-pyrazole-3-carboxylate | 9.6 g | OC(CC1=CC(=NN1CCC)C(=O)OCC)(C)C | C13H22N2O3
